US06933311B2
2-(5-isoquinolinyl)-N-[4-(trifluoromethyl)benzyl]propanamide
The title compound was prepared using the procedure described in Example 222B using 4-(trifluoromethyl)benzylamine and 2-(5-isoquinolinyl)propanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 359 (M+H)+; MS (ESI−) m/z 357 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.59 (d, J 7.1, 3H), 4.35 (d, J 6.1, 2H), 4.69 (q, J 7.1, 1H), 7.40 (d, J 8.1, 1H), 7.65 (d, J 8.1, 1H), 7.78 (m, 2H), 8.03 (t, 1H), 8.20 (d, J 7.1, 1H), 8.47 (d, J 7.8, 1H), 8.65 (br s, 1H), 8.75 (s, 1H), 9.05 (t, J 5.8, 1H), 9.93 (s, 1H); Anal. Calcd for C20H17F3N2O+1.6 HCl+1.3H2O: C, 54.58; H, 4.86. Found: C, 54.70; H, 5.10.

reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 2-(5-isoquinolinyl)propanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | 2-(5-isoquinolinyl)-N-[4-(trifluoromethyl)benzyl]propanamide | C1=NC=CC2=C(C=CC=C12)C(C(=O)NCC1=CC=C(C=C1)C(F)(F)F)C | C20H17F3N2O
